US07365069B2
N-(4-Ethoxyphenyl)-4-(methylthio)benzenecarboximidamide
The title compound was prepared from 4-methylthiobenzonitrile (10.87 g, 73 mmol) and 4-ethoxyaniline (10 g, 73 mmol) by following the procedure described in preparation 10 (12.7 g, yield 61%, purity 96.27% by HPLC). 1H-NMR (CDCl3):δ 1.39-1.43 (t, 3H), 2.51 (s, 3H), 3.99-4.04 (q, 2H), 4.75 (bs, 2H, D2O exchangeable), 6.90 (s, 4H), 7.26-7.29 (m, 2H), 7.77-7.79 (d, 2H). MS m/z:287.2 (M+).

reactant | 4-methylthiobenzonitrile | 73 mmol, 10.87 g | CSC1=CC=C(C#N)C=C1 | C8H7NS
reactant | 4-ethoxyaniline | 73 mmol, 10 g | C(C)OC1=CC=C(N)C=C1 | C8H11NO
product | N-(4-Ethoxyphenyl)-4-(methylthio)benzenecarboximidamide | yield 61% | C(C)OC1=CC=C(C=C1)NC(=N)C1=CC=C(C=C1)SC | C16H18N2OS
